US04017599
Magnesium β-alaninate was prepared by reacting 4.86 grams of β-alanine with 2.5 grams of basic magnesium carbonate (26.3% Mg) in 25 grams of water. The mixture was heated at 75° C. with agitation for one half hour. The hot solution was added to 100 grams of zirconyl hydroxybromide solution (17.5% Zr). To the resultant solution was added 14.2 grams of 2/3 basic aluminum sulfamate, Al(OH)2 (OSO2NH2) (9.19% Al, see U.S. Pat. No. 2,765,213 by S. M. Beekman) with agitation. The solution was evaporated at 60° C. under a vacuum of 252 m of Hg. The product contained 1.8% Al, 30.9% Zr, 0.53 Mg, 5.91% β-alanine and 5.3% sulfamates.

reactant | β-alanine | 4.86 grams | NCCC(=O)O | C3H7NO2
reactant | magnesium carbonate | 2.5 grams | C([O-])([O-])=O.[Mg+2]
reactant | hydroxybromide | 100 grams | OBr | BrHO
reactant | aluminum sulfamate | S(N)([O-])(=O)=O.[Al+3].S(N)([O-])(=O)=O.S(N)([O-])(=O)=O
solvent | water | 25 grams | O | H2O
product | Magnesium β-alaninate | NCCC(=O)[O-].[Mg+2].NCCC(=O)[O-] | InChI=1S/2C3H7NO2.Mg/c2*4-2-1-3(5)6;/h2*1-2,4H2,(H,5,6);/q;;+2/p-2
